US08058300B2
Step 4: Isopropyl 1-(4′-(2-(benzyloxycarbonyl)-3-(methylamino)but-2-enoyl)biphenyl-4-yl)cyclopropanecarboxylate:
4′-(1-(Isopropoxycarbonyl)cyclopropyl)biphenyl-4-carboxylic acid (9.2 g, 28 mmol), dichloroethane (50 mL), DMF (0.1 mL), thionyl chloride (5.5 mL, 62 mmol) were heated to 75° C. for 1.5 hours. (acid chloride formation was monitored by adding small aliquot (100 μL) to a solution of benzyl amine in acetonitrile and analyzing for the benzyl amide by LCMS; no starting material was observed by LCMS). The solution was evaporated on a rotavap and THF (10 mL) was added. The solution of the acid chloride in THF was added via syringe to a solution of 3-methylamino-but-2-enoic acid methyl ester (4.0 g, 31.2 mmol) and pyridine (5.5 mL, 70 mmol) in THF (50 mL). The solution was stirred at room temperature overnight. The volatiles were evaporated on a rotavap to yield the crude product.

reactant | 4′-(1-(Isopropoxycarbonyl)cyclopropyl)biphenyl-4-carboxylic acid | 28 mmol, 9.2 g | C(C)(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C20H20O4
reactant | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
reactant | thionyl chloride | 62 mmol, 5.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | benzyl amine | C(C1=CC=CC=C1)N | C7H9N
reactant | benzyl amide | C(C1=CC=CC=C1)[NH-]
reactant | 3-methylamino-but-2-enoic acid methyl ester | 31.2 mmol, 4.0 g | COC(C=C(C)NC)=O | C6H11NO2
reactant | pyridine | 70 mmol, 5.5 mL | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | Isopropyl 1-(4′-(2-(benzyloxycarbonyl)-3-(methylamino)but-2-enoyl)biphenyl-4-yl)cyclopropanecarboxylate | C(C1=CC=CC=C1)OC(=O)C(C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)OC(C)C)=C(C)NC | C32H33NO5
